US05444080
A mixture of methyl (E and Z)-3-[2-n-butyl-1-{(2chlorophenyl)methyl}-1H-imidazol-5-yl]-2-n-butyl-propenoate hydrochloride salt (prepared by the method in Example 6, replacing methyl lithium with butyl lithium) (245 mg, 0.578 mmol) in methanol (15 mL) and platinum oxide (30 mg) was stirred under an atmosphere of hydrogen for 0.5 hours. The catalyst was filtered, the filtrate was concentrated, and the residue was triturated with diethyl ether to afford 181 mg (74%) of methyl 3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-n-butylpropanoate hydrochloride; mp 123°-125° C.

reactant | 3-[2-n-butyl-1-{(2chlorophenyl)methyl}-1H-imidazol-5-yl]-2-n-butyl-propenoate hydrochloride salt | Cl.C(CCC)C=1N(C(=CN1)C=C(C(=O)O)CCCC)CC1=C(C=CC=C1)Cl
reactant | butyl lithium | C(CCC)[Li]
solvent | methanol | 15 mL | CO | CH4O
catalyst | platinum oxide | 30 mg | [Pt]=O
product | methyl 3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-n-butylpropanoate hydrochloride | 181 mg, 74% | Cl.C(CCC)C=1N(C(=CN1)CC(C(=O)OC)CCCC)CC1=C(C=CC=C1)Cl | InChI=1S/C22H31ClN2O2.ClH/c1-4-6-10-17(22(26)27-3)14-19-15-24-21(13-7-5-2)25(19)16-18-11-8-9-12-20(18)23;/h8-9,11-12,15,17H,4-7,10,13-14,16H2,1-3H3;1H
